Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
s/p Coronary artery Bypass Grafting /Aortic Valve 
Replacement(Left internal mammary artery grafted to left 
anterior descending artery. Saphenous vein grafted to Obtuse 
Marginal/Right coronary artery)/ (#21mm ___ tissue Aortic 
___

 
History of Present Illness:
___ year old man with past medical history of hypertension, 
hyperlipidemia, chronic atrial fibrillation, referred for 
cardiac catherization for evaluation
of coronary artery disease and aortic stenosis.  The patient 
presented with chest pain in the setting of rapid atrial 
fibrillation, and was found to have positive cardiac biomarkers 
at OSH as well as severe atrial stenosis on echocardiography 
with estimated valve area of 0.5 cm2 and EF 60%. Transferred to
___ for cardiac cath which revealed CAD. ___ was consulted 
for evaluation for AVR/CABG.  He underwent dental extractions 
___ in preparation for
surgery.  He was then transferred to rehab for antibiotic 
therapy for lower leg cellulitis.  He was treated with 
Vancomycin and Cipro and was eventually discharged to home.  He 
was home for 9 days and then was found to have a UTI by his PCP 
and was admitted to ___ on ___ and was treated 
with Imipenem. His foley was changed and he was sent back to 
rehab on ___ and
was transferred here today for surgery in the morning.  He had a 
power PICC placed last week.  He had a negative urine culture 
on___.

 
Past Medical History:
- Hypertension
- Chronic atrial fibrillation, on aspirin and not anticoagulated 
___ recurrent epistaxis on warfarin
- Diastolic congestive heart failure (EF 60%)
- Aortic stenosis
- H/o cervical fracture age ___ s/p C3-5 laminectomy, resulting 
in mild atony ___ muscles and neurogenic bladder, with 
indwelling Foley catheter ___ years
- Gastroesophageal reflux disease
- Benign prostatic hyperplasia
- Multiple UTIs
- CKD stage I-II
- S/p skin cancer resection left shoulder ___ years ago
- BLE draining cellulitis x ___ weeks
 
Social History:
___
Family History:
There is no family history of premature coronary artery disease 
or sudden death. Father with ___ vascular disease leading 
to bilateral amputation at ___, CVA at ___. Mother with HTN died 
at ___ secondary to complication of CVA.
 
Physical Exam:
Pulse: 86 Resp: 18 O2 sat: 98% RA
B/P  Right: 93/62   Left: 
Height:     Weight:

General:
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+ [x]
Extremities: Warm [x], well-perfused [x]  Edema Varicosities:
None []bilat. redness on calves
Neuro: Grossly intact
Pulses:
Femoral      Right: 2+  Left: 2+
DP           Right: dop Left: dop
___           Right: dop Left: dop
Radial       Right: 2+  Left: 2+

Carotid Bruit        Right: no   Left: no

 
Pertinent Results:
Admission:
___ 06:05PM BLOOD WBC-10.0 RBC-5.16 Hgb-10.9* Hct-36.2* 
MCV-70* MCH-21.1* MCHC-30.1* RDW-18.6* Plt ___
___ 06:05PM BLOOD ___ PTT-34.8 ___
___ 06:05PM BLOOD Glucose-132* UreaN-22* Creat-1.1 Na-141 
K-4.4 Cl-104 HCO3-28 AnGap-13
___ 06:05PM BLOOD ALT-27 AST-27 LD(LDH)-224 AlkPhos-178* 
TotBili-0.5
Discharge
___ 08:50AM BLOOD WBC-13.1* RBC-4.71 Hgb-11.3* Hct-36.7* 
MCV-78* MCH-24.0* MCHC-30.8* RDW-20.6* Plt ___
___ 08:50AM BLOOD Plt ___
___ 03:13AM BLOOD ___ PTT-41.0* ___
___ 08:50AM BLOOD UreaN-23* Creat-0.9 K-4.1
___ 04:13AM BLOOD Glucose-78 UreaN-19 Creat-0.8 Na-142 
K-4.6 Cl-106 HCO3-25 AnGap-16
ECHOCARDIOGRAPHY REPORT
Date/Time: ___ at 08:33    ___ MD: ___, MD 

Test Type: TEE (Complete) Sonographer: ___, MD 
Doppler: Full Doppler and color Doppler Test Location: 
Anesthesia West OR cardiac 
Contrast: None Tech Quality: Adequate 
Tape #: 2010AW1-: Machine: Philips 
Echocardiographic Measurements  
Results  Measurements  Normal Range  
Left Ventricle - Ejection Fraction:  40% to 45%  >= 55%  
Aortic Valve - Peak Gradient:  *61 mm Hg  < 20 mm Hg  
Aortic Valve - Mean Gradient:  36 mm Hg     
Aortic Valve - LVOT diam:  2.1 cm     
Aortic Valve - Valve Area:  *0.6 cm2  >= 3.0 cm2  
Findings  
LEFT ATRIUM: Mild spontaneous echo contrast in the body of the 
LA. Mild spontaneous echo contrast in the ___. No thrombus in 
the ___. 
RIGHT ATRIUM/INTERATRIAL SEPTUM: Normal interatrial septum. 
LEFT VENTRICLE: Mildly depressed LVEF. 
RIGHT VENTRICLE: Moderate global RV free wall hypokinesis. 
AORTA: Normal ascending aorta diameter. Simple atheroma in 
descending aorta. 
AORTIC VALVE: Severely thickened/deformed aortic valve leaflets. 
Critical AS (area <0.8cm2). Trace AR. 
MITRAL VALVE: Moderately thickened mitral valve leaflets. 
Moderate (2+) MR. 
___ VALVE: Mild to moderate [___] TR. 
PULMONIC VALVE/PULMONARY ARTERY: Physiologic (normal) PR. 
PERICARDIUM: No pericardial effusion. 
GENERAL COMMENTS: A TEE was performed in the location listed 
above. I certify I was present in compliance with ___ 
regulations. The patient was under general anesthesia throughout 
the procedure. The TEE probe was passed with assistance from the 
anesthesioology staff using a laryngoscope. No TEE related 
complications.  
Conclusions  
Pre-CPB:
Mild spontaneous echo contrast is seen in the body of the left 
atrium. 
Mild spontaneous echo contrast is present in the left atrial 
appendage. 
No thrombus is seen in the left atrial appendage. 
Overall left ventricular systolic function is mildly depressed 
(LVEF= 40 - 45 %), with moderate global free wall hypokinesis. 
There are simple atheroma in the descending thoracic aorta. 
The aortic valve leaflets are severely thickened/deformed. There 
is critical aortic valve stenosis (valve area <0.8cm2). Trace 
aortic regurgitation is seen. 
The mitral valve leaflets are moderately thickened. Moderate 
(2+) mitral regurgitation is seen. 
There is no pericardial effusion. 
Post-CPB:
Patient is AV-Paced, on low dose Phenylephrine.
Good biventricular systolic fxn. EF now 45 - 50%.
Prosthetic aortic valve is in place with no leak and no AI. Mean 
residual gradient = 9 mmHg.
MR is 1+ - 2+.
Aorta intact.   
  I certify that I was present for this procedure in compliance 
with ___ regulations.

Electronically signed by ___, MD, Interpreting 
physician ___ ___ 12:39  
CHEST (PORTABLE AP) Study Date of ___ 4:45 ___ 
Final Report CHEST RADIOGRAPH  
INDICATION: Status post CABG and thoracocentesis.  
FINDINGS: As compared to the previous examination, the signs of 
pulmonary 
edema have decreased. Nonetheless, small bilateral pleural 
effusions are 
still seen. In almost unchanged manner, a retrocardiac 
atelectasis is shown.  
Moderate cardiomegaly. 
The ___-Ganz catheter has been removed, the venous introduction 
sheath is in unchanged position. 
The study and the report were reviewed by the staff radiologist. 
 
___. ___ 

 
Brief Hospital Course:
On ___ ___ went to the operating room and underwent 
Coronary artery bypass grafting x3 with a left internal mammary 
artery to left anterior descending artery andreverse saphenous 
vein graft to the distal right coronary artery and the obtuse 
marginal artery. And Aortic valve replacement with a 21-mm 
___ Ease
pericardial valve, size 21 mm, model number ___ with ___. 
Please see operative report for further details. He tolerated 
the procedure well and was transferred to the CVICU in critical 
but stable condition. He was sedated, intubated and required 
inotropes and pressors to augment his cardiac function. He awoke 
neurologically intact and on POD#1 he was extubated without 
difficulty. All lines and drains were discontinued in a timely 
fashion. Postoperatively he went back into his chronic atrial 
fibrillation. He was treated medically to rate control him. No 
anticoagulation per ___ as he has a history of recurrent 
epistaxis while on Coumadin in the past as well as being a high 
fall risk. He remainded in the CVICU while weaning off drips and 
maintaining hemodynamic stability. Postoperative Ciprofloxacin 
was started prophylactically for the UTI treated preop. While in 
the CVICU, ___ became delusional and was having visual 
hallucinations. All narcotics were discontinued and he was 
treated with Haldol and Seroquel with good response. POD#6 he 
was transferred to the step down unit for further monitoring. 
Physical therapy was consulted for evaluation of strength and 
mobility.  He remaind hemodynamically stable in rate controlled 
AFib. POD#8 he was cleared for discharge to ___ at ___ 
___. All follow up appointments were advised.

 
Medications on Admission:
Imipenem 500 mg IV q 8 hours
ASA 325 mg PO daily
Lovenox
Lipitor 80 mg PO daily
Lopressor 75 mg PO daily
Finasteride 5 mg PO daily
Lasix 40 mg PO daily
Diltiazem 30 mg PO QID
                     

 
Discharge Medications:
1. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
2. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
4. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H (every 
4 hours) as needed for pain.  
5. Bisacodyl 10 mg Suppository Sig: One (1) Suppository Rectal 
DAILY (Daily) as needed for constipation.  
6. Magnesium Hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO HS (at bedtime) as needed for constipation.  
7. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. Heparin (Porcine) 5,000 unit/mL Solution Sig: 5000 (5000) 
units Injection TID (3 times a day).  
9. Finasteride 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
10. Quetiapine 25 mg Tablet Sig: One (1) Tablet PO TID (3 times 
a day).  
11. Captopril 25 mg Tablet Sig: Two (2) Tablet PO TID (3 times a 
day).  
12. Miconazole Nitrate 2 % Powder Sig: One (1) Appl Topical BID 
(2 times a day) as needed for itching.  
13. Insulin Regular Human 100 unit/mL Solution Sig: sliding 
scale  Injection ASDIR (AS DIRECTED): AC&QHS.  
14. Diltiazem HCl 30 mg Tablet Sig: One (1) Tablet PO QID (4 
times a day).  
15. Metoprolol Tartrate 50 mg Tablet Sig: Two (2) Tablet PO TID 
(3 times a day).  
16. Lasix 40 mg Tablet Sig: One (1) Tablet PO twice a day.  
17. Potassium Chloride 10 mEq Tablet Sustained Release Sig: Two 
(2) Tablet Sustained Release PO once a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
CAD
s/p Coronary artery Bypass Grafting /Aortic Valve 
Replacement(Left internal mammary artery grafted to left 
anterior descending artery. Saphenous vein grafted to Obtuse 
Marginal/Right coronary artery)/ (#21mm ___ tissue Aortic 
___
-hypertension, hyperlipidemia, chronic
atrial fibrillation (on
ASA, no coumadin ___ recurrent epistaxis on warfarin) diastolic
CHF (EF 60%) AS, h/o cervical fx age ___ s/p C3-C5 laminectomy,
resulting in mild atony ___ muscles and neurogenic bladder,
indwelling Foley x ___ years, GERD, BPH, multiple urinary tract
infections, CKD stage I-II, skin cancer resection left shoulder 
___
years ago, BLE draining cellulitis x ___ weeks, h/o MRSA

 
Discharge Condition:
Alert and oriented x3, nonfocal. 
Ambulating with  assistive device at baseline/wheelchair
Foley->gravity(neurogenic bladder)
Incisional pain managed with Tylenol only
Incisions: 
Sternal - healing well, no erythema or drainage 
Leg Right/Left - healing well, no erythema or drainage. 
___ (B) 

 
Discharge Instructions:
Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
Shower daily including washing incisions gently with mild soap, 
no baths or swimming until cleared by surgeon. Look at your 
incisions daily for redness or drainage.

No lotions, cream, powder, or ointments to incisions. 
Each morning you should weigh yourself and then in the evening 
take your temperature, These should be written down on the chart 
.
No driving for approximately one month, until follow up with 
surgeon.
No lifting more than 10 pounds for 10 weeks.
Please call with any questions or concerns (___).
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge of sternal wound.

 

**Please call cardiac surgery office with any questions or 
concerns (___). Answering service will contact on call 
person during off hours.**

 
Followup Instructions:
___